US07759337B2
In a microwave tube was placed 3-(1-chlorophthalazin-6-yl)-4-methylbenzamide (0.150 g, 0.50 mmol), copper (I) iodide (0.0048 g, 0.025 mmol), (1R,2R)-N1,N2-dimethylcyclohexane-1,2-diamine (0.014 g, 0.10 mmol), cesium carbonate (0.34 g, 1.1 mmol) and pyrrolidin-2-one (0.077 mL, 1.0 mmol) in 2 mL of DMF. The mixture was heated at 150°-200° C. for 20 minutes in the microwave. After cooling, the reaction was filtered through Celite®. Water was added to the filtrate and the mixture was extracted with dichloromethane (3×). The organic layer was concentrated and the crude material purified by HPLC to give 4-methyl-3-(1-(2-oxopyrrolidin-1-yl)phthalazin-6-yl)benzamide as white solid. Found MS (ES+)=347 (M+H+)

reactant | 3-(1-chlorophthalazin-6-yl)-4-methylbenzamide | 0.50 mmol, 0.150 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)N)C=CC1C | C16H12ClN3O
reactant | (1R,2R)-N1,N2-dimethylcyclohexane-1,2-diamine | 0.10 mmol, 0.014 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 1.1 mmol, 0.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidin-2-one | 1.0 mmol, 0.077 mL | N1C(CCC1)=O | C4H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.025 mmol, 0.0048 g | [Cu]I
product | 4-methyl-3-(1-(2-oxopyrrolidin-1-yl)phthalazin-6-yl)benzamide | CC1=C(C=C(C(=O)N)C=C1)C=1C=C2C=NN=C(C2=CC1)N1C(CCC1)=O | C20H18N4O2
